US08030337B2
N-{2-[2-(3-Hydroxybutyl)-7,8-dihydro-6H-indeno[5,4-d][1,3]oxazol-8-yl]ethyl}acetamide
To a solution of N-(2-{2-[3-(benzyloxy)butyl]-7,8-dihydro-6H-indeno[5,4-d][1,3]oxazol-8-yl}ethyl)acetamide (155 mg, 0.381 mmol) in methanol (4 mL) was added a 10% palladium-carbon powder (300 mg), and the mixture was stirred at 50° C. for 4 hr under a hydrogen atmosphere. The catalyst was filtered off, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (methanol/ethyl acetate=0/100→5/95) to give the title compound (101 mg, yield 84%).

reactant | N-(2-{2-[3-(benzyloxy)butyl]-7,8-dihydro-6H-indeno[5,4-d][1,3]oxazol-8-yl}ethyl)acetamide | 0.381 mmol, 155 mg | C(C1=CC=CC=C1)OC(CCC=1OC2=C(N1)C=CC=1CCC(C12)CCNC(C)=O)C | C25H30N2O3
solvent | methanol | 4 mL | CO | CH4O
catalyst | palladium-carbon | 300 mg | [C].[Pd]
product | N-{2-[2-(3-Hydroxybutyl)-7,8-dihydro-6H-indeno[5,4-d][1,3]oxazol-8-yl]ethyl}acetamide | 101 mg, yield 84% | OC(CCC=1OC2=C(N1)C=CC=1CCC(C12)CCNC(C)=O)C | C18H24N2O3
